US07932271B2
N-[5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl]methanesulfonamide
To a methylene chloride solution (10.0 ml) of [5-chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl]amine (114 mg, 0.276 mmol) was added pyridine (440 μl, 5.5 mmol). To the resulting mixture was added methanesulfonyl chloride (addition of 77 μl once a day for 3 days, 230 μl in total, 3.0 mmol). The resulting mixture was stirred for 4 days in total. The reaction mixture was concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1), followed by crystallization in ether to give the title compound (51 mg, 38%) as a white solid.

reactant | [5-chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl]amine | 0.276 mmol, 114 mg | ClC=1C(=CC(=NC1)N)C(S(=O)(=O)C1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C18H12ClF3N2O2S
reactant | pyridine | 5.5 mmol, 440 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10.0 ml | C(Cl)Cl | CH2Cl2
product | N-[5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl]methanesulfonamide | 51 mg, 38% | ClC=1C(=CC(=NC1)NS(=O)(=O)C)C(S(=O)(=O)C1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C19H14ClF3N2O4S2
